US05061706
a. 4-Amino-3-nitrobenzenesulfonamide
A 100 ml stainless steel autoclave was charged with about 50 ml of liquid ammonia. Then 4-chloro-3-nitrobenzenesulfonamide (5.0 g, 21 mmol) was added and the bomb was heated in an oil bath at 100° C. for 3 h. Excess ammonia was allowed to evaporate, and the solid residue was successively washed with water, cold ethanol and ether to give 3.9 g (85%) of the title compound. M.p. 211.5°-213° C. (ethanol); 1H-NMR (DMSO-d6): 6.97 (d,J=9Hz, 1H, H-5), 7.12 (s, 2H, NH2), 7.57 (dd, J6-5 =9 Hz, J6-2 2Hz, H-6), 7.70 (broad s, 2H, NH2), 8.22 (d,J 2Hz, H-2).

reactant | ammonia | N | H3N
reactant | 4-chloro-3-nitrobenzenesulfonamide | 21 mmol, 5.0 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
product | 4-Amino-3-nitrobenzenesulfonamide | 3.9 g, 85% | NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H7N3O4S
